US09102591B2
2-Methyl-N-[4-methyl-2-(6-methyl-pyridin-3-yl)-pentyl]-benzamide
From 2-methylbenzoic acid and 4-methyl-2-(6-methylpyridin-3-yl)-pentylamine. LCMS (MH30 ): m/z=311.0, tR (minutes, Method A)=1.31

reactant | 2-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | 4-methyl-2-(6-methylpyridin-3-yl)-pentylamine | CC(CC(CN)C=1C=NC(=CC1)C)C | C12H20N2
product | 2-Methyl-N-[4-methyl-2-(6-methyl-pyridin-3-yl)-pentyl]-benzamide | CC1=C(C(=O)NCC(CC(C)C)C=2C=NC(=CC2)C)C=CC=C1 | C20H26N2O
